US05112817
2-Methylthio-5-[3-(4-(α,α-diphenylacetyl)piperazine-1-yl)-2-hydroxypropoxy]quinoline
An epoxy compound was prepared from 2-methylthio-5-hydroxyquinoline in accordance with the same procedure as in Example 1-(a), and reaction and treatment were then carried out using this epoxy compound and N-(α,α-diphenylacetyl)piperazine to obtain the desired compound.

reactant | 2-methylthio-5-hydroxyquinoline | CSC1=NC2=CC=CC(=C2C=C1)O | C10H9NOS
reactant | N-(α,α-diphenylacetyl)piperazine | C1(=CC=CC=C1)C(C(=O)N1CCNCC1)C1=CC=CC=C1 | C18H20N2O
product | 2-Methylthio-5-[3-(4-(α,α-diphenylacetyl)piperazine-1-yl)-2-hydroxypropoxy]quinoline | CSC1=NC2=CC=CC(=C2C=C1)OCC(CN1CCN(CC1)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O)O | C31H33N3O3S
